US06919331B2
To a cooled (−45° C.) solution of oxalyl chloride (0.4 mL 2M in dichloromethane, 0.8 mmol) in DCM (5 mL) was added DMSO (115 μL, 1.62 mmol) under a nitrogen atmosphere. After stirring for 3 min. a solution of 1-[4-hydroxymethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one (300 mg, 0.738 mmol) in DCM (4 mL) was cannulated and stirring was continued for 15 min. at the same temperature. Then diisopropylethyl amine (643 μL, 3.69 mmol) was added, and the mixture was allowed to warm to room temperature after 5 min. Stirring was continued for 4 hrs, the mixture was quenched with satd. ammonium chloride and the layers separated. The aqueous phase was extracted with DCM, and the combined organic phases washed with water, brine and dried (MgSO4) to afford 2-(3-Isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-4-carbaldehyde as a pale yellow solid (quantitative recovery), that was sufficiently pure for the next steps:

reactant | oxalyl chloride | 0.8 mmol, 2M, 0.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 1.62 mmol, 115 μL | CS(=O)C | C2H6OS
reactant | 1-[4-hydroxymethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one | 0.738 mmol, 300 mg | OCC1=CC=CC=2N(C(=NC21)CN2C(N(C1=C2C=CC=C1)C(C)C)=O)CCC(C)C | C24H30N4O2
reactant | diisopropylethyl amine | 3.69 mmol, 643 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-Isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-4-carbaldehyde | C(C)(C)N1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC=C1C=O)=O | C24H28N4O2
